US06949579B2
0.26 cm3 of butyryl chloride is added to 500 mg of 5-(trifluoromethyl)-1H-indazole-3-amine, prepared according to patent U.S. Pat. No. 3,133,081, in 15 cm3 of pyridine, and cooled to about 5° C. The reaction medium is allowed to return to about 19° C. over 12 hours. The reaction medium is evaporated under reduced pressure (2 kPa; 50° C.). The residue is taken up in 15 cm3 of ethyl acetate and 15 cm3 of distilled water. The organic phase is dried over magnesium sulphate, filtered through a sinter funnel and then evaporated under reduced pressure (2 kPa; 50° C.). The residue is taken up in 15 cm3 of dichloromethane, filtered and dried under reduced pressure (90 Pa; 50° C.) to give 390 mg of N-[5-(trifluoromethyl)-1H-indazol-3-yl]butanamide in the form of an off-white solid melting at 230° C.

reactant | butyryl chloride | 0.26 cm3 | C(CCC)(=O)Cl | C4H7ClO
reactant | 5-(trifluoromethyl)-1H-indazole-3-amine | 500 mg | FC(C=1C=C2C(=NNC2=CC1)N)(F)F | C8H6F3N3
solvent | pyridine | 15 cm3 | N1=CC=CC=C1 | C5H5N
product | N-[5-(trifluoromethyl)-1H-indazol-3-yl]butanamide | 390 mg | FC(C=1C=C2C(=NNC2=CC1)NC(CCC)=O)(F)F | C12H12F3N3O
